US08604034B2
To a solution of crude 4-bromo-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylic acid (100 mg, 0.29 mmol) dissolved in a mixture of xylenes (10 mL) and ethanol (3 mL) was added ethane-1,2-diamine (100 μL, 1.5 mmol). The reaction mixture was heated at reflux. After 90 minutes (monitored by LCMS) the mixture was concentrated in vacuo and the resultant residue purified flash chromatography (Biotage SP4, 40 g cartridge, 0-5% MeOH gradient in CH2Cl2) to give 7-bromo-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as a light yellow solid (73 mg, yield: 68%). 1H NMR (400 MHz, d6-acetone): δ 2.74-2.82 (m, 1H), 3.30-3.38 (m, 1H), 3.44 (ddd, 1H, J 7.7, 3.4, 1.3 Hz), 3.67-3.75 (m, 1H), 4.39 (d, 1H, J 12.5 Hz), 4.69 (d, 1H, J 12.5 Hz), 6.68 (d, 1H, 1.8 Hz), 6.79 (d, 1H, J 1.7 Hz), 7.32-7.40 (m, 4H).

reactant | 4-bromo-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylic acid | 0.29 mmol, 100 mg | BrC=1C=C(N(C1)CC(=O)C1=CC=C(C=C1)Cl)C(=O)O | C13H9BrClNO3
reactant | ethane-1,2-diamine | 1.5 mmol, 100 μL | C(CN)N | C2H8N2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 7-bromo-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 73 mg, yield: 68% | BrC=1C=C2N(CC3(N(C2=O)CCN3)C3=CC=C(C=C3)Cl)C1 | C15H13BrClN3O
